US07368567B2
(6-Benzenesulfonyl-2,3-dihydro-benzo[1,4]dioxin-2-(R)-ylmethyl)-methyl amine
Following the same procedure, (6-benzenesulfonyl-2,3-dihydro-benzo[1,4]dioxin-2-(S)-yl-methyl)-methyl amine hydrochloride salt was also prepared: MS; (M+H)+ 320, m. p. 209.0-212.0° C., [α]=−44° (methanol; c=0.5).

reactant | (6-benzenesulfonyl-2,3-dihydro-benzo[1,4]dioxin-2-(S)-yl-methyl)-methyl amine hydrochloride salt | Cl.C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(O[C@H](CO2)CNC)C=C1
solvent | methanol | CO | CH4O
product | (6-Benzenesulfonyl-2,3-dihydro-benzo[1,4]dioxin-2-(R)-ylmethyl)-methyl amine | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(O[C@@H](CO2)CNC)C=C1 | C16H17NO4S
